US06403595B1
(S)-3-benzyloxymethyl-4-(tert-butoxycarbonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-piperazinone
In ethanol (80 ml) was dissolved (S)-3-benzyloxymethyl-4-(tert-butoxycarbonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-oxo-1,2,3,4-tetrahydropyrazine (1.13 g), and to the solution was added 10% palladium on carbon (1 g). The mixture was subjected to catalytic reduction for 9 hours with medium pressure reduction apparatus, and the catalyst was removed. The solvent was evaporated under reduced pressure to give colorless amorphous of the title compound (1.02 g).

reactant | (S)-3-benzyloxymethyl-4-(tert-butoxycarbonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-oxo-1,2,3,4-tetrahydropyrazine | 1.13 g | C(C1=CC=CC=C1)OC[C@H]1C(N(C=CN1C(=O)OC(C)(C)C)CC1=CC=C(C=C1)N1C=NC=C1)=O | C27H30N4O4
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | (S)-3-benzyloxymethyl-4-(tert-butoxycarbonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-piperazinone | 1.02 g | C(C1=CC=CC=C1)OC[C@H]1C(N(CCN1C(=O)OC(C)(C)C)CC1=CC=C(C=C1)N1C=NC=C1)=O | C27H32N4O4
